US04060523
To a solution of 3.0 g. (8.4 mmol.) of 2-benzoyl-3-bromomethylquinoxaline 1,4-dioxide and 0.90 g. (9.2 mmol.) of potassium acetate in 40 ml. of N,N-dimethylformamide, was added 0.22 g. (1.3 mmol.) of finely ground potassium iodide. The reaction mixture was stirred for 1.5 hours at ambient temperature, and then it was poured into 1,000 ml. of ether. The solid which precipitated was removed by filtration and discarded. Evaporation of the filtrate in vacuo left a yellow solid which was washed with methanol and dried, to give 2.7 g. (94% yield) of 2-benzoyl-3-acetoxymethylquinoxaline 1,4-dioxide, m.p. 164°-167° C.

reactant | 2-benzoyl-3-bromomethylquinoxaline 1,4-dioxide | 8.4 mmol | C(C1=CC=CC=C1)(=O)C1=[N+](C2=CC=CC=C2[N+](=C1CBr)[O-])[O-] | C16H11BrN2O3
reactant | potassium acetate | 9.2 mmol | C(C)(=O)[O-].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium iodide | [I-].[K+]
solvent | ether | CCOCC | C4H10O
product | 2-benzoyl-3-acetoxymethylquinoxaline 1,4-dioxide | 94% yield | C(C1=CC=CC=C1)(=O)C1=[N+](C2=CC=CC=C2[N+](=C1COC(C)=O)[O-])[O-] | C18H14N2O5
